US09163008B2
To a mixture of (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxylate (0.628 g, 2.09 mmol) in dioxane (10 mL) was added 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.791 g, 2.52 mmol), 2M aqueous Na2CO3 (2.1 mL, 4.2 mmol) and PdCl2(dppf) (0.087 g, 0.11 mmol). The reaction vessel was flushed with argon, sealed and heated at 80° C. overnight. After cooling, the reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 50-90% EtOAc in hexanes. The product fractions were evaporated in vacuo to give a residue which was triturated with 5 mL 1:1 EtOAc/hexanes. The solid was filtered off, rinsed twice with 2 mL 1:1 EtOAc/hexanes, and dried under vacuum to give (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)-amino)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxylate as a cream-colored powder (0.537 g, 1.19 mmol, 57% yield). 1H NMR (400 MHz, DMSO-d6): 8.36 (2H, d, J=9.0 Hz), 7.97 (1H, d, J=6.6 Hz), 7.54 (1H, s), 7.31-7.24 (2H, m), 7.19-7.13 (2H, m), 7.09-6.99 (4H, m), 4.59-4.50 (1H, m), 1.55 (9H, s), 1.36 (3H, d, J=7.0 Hz). LC/MS: m/z=453.3 [M+H]+.

reactant | (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxylate | 2.09 mmol, 0.628 g | NC([C@H](C)NC1=CC(=NC(=N1)Cl)C(=O)OC(C)(C)C)=O | C12H17ClN4O3
reactant | 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.52 mmol, 0.791 g | FC1=CC=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C18H20BFO3
reactant | Na2CO3 | 4.2 mmol, 2M, 2.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.11 mmol, 0.087 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)-amino)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxylate | 1.19 mmol, 0.537 g, 57% yield | NC([C@H](C)NC1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)OC(C)(C)C)=O | C24H25FN4O4
